US04006161
To a stirring suspension of 25 grams (0.20 mole; M.W. 125.19) of 3-aminothiophenol in 200 ml. of 5N NaOH was added dropwise a solution of 34.2 grams of α-bromotoluene (0.20 mole; M.W. 171.04) dissolved in 100 ml. of 1,4-dioxane. The addition required about 30 minutes. The reaction mixture was stirred at room temperature for 2 hours and then extracted with two 500 ml. portions of ethyl ether. The extracts were combined, dried over Na2SO4, and evaporated to yield 41.0 grams of m-benzylthioaniline.

reactant | 3-aminothiophenol | 0.20 mole, 25 grams | NC=1C=C(C=CC1)S | C6H7NS
reactant | NaOH | 5N | [OH-].[Na+]
reactant | α-bromotoluene | 0.20 mole, 34.2 grams | BrCC1=CC=CC=C1 | C7H7Br
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | m-benzylthioaniline | 41.0 grams | C(C1=CC=CC=C1)SC=1C=C(N)C=CC1 | C13H13NS
